US05143910
To an ice cold solution of 7β-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylic acid p-methoxybenzyl ester (3.0 g; 6.16 mMol.) in dichloro-methane (50 ml) is added m-chloroperbenzoic acid (1.32 g: 1 Eq.), and the mixture is stirred for 1 hour under ice cooling. The reaction mixture is diluted with aqueous 5% sodium thiosulfate and extracted with dichloromethane. The extract is washed with aqueous sodium hydrogen carbonate, dried, and concentrated in vacuum to give 7β-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylic acid p-methoxybenzyl ester 1-oxide (1.66 g). Yield: 53.5%.

reactant | 7β-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylic acid p-methoxybenzyl ester | 6.16 mMol, 3.0 g | COC1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(CC3=CC=CC=C3)=O)=O)CCl)C=C1 | C24H23ClN2O5S
reactant | m-chloroperbenzoic acid | 1.32 g, 1 Eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloro-methane | 50 ml | ClCCl | CH2Cl2
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 7β-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylic acid p-methoxybenzyl ester 1-oxide | 1.66 g, Yield: 53.5% | COC1=CC=C(COC(=O)C2=C(CS([C@H]3N2C([C@H]3NC(CC3=CC=CC=C3)=O)=O)=O)CCl)C=C1 | C24H23ClN2O6S
